US04861880
1-(3-Methoxyphenyl)-3-(dimethylaminomethylene)-2(1H,3H)-indolone
In a flame dried flask under nitrogen, sodium hydride (50% dispersion in oil, 0.96 g, 20 mmoles) was washed free of oil with hexane. Dry dimethylformamide (DMF, 50 ml) and 3-(dimethylaminomethylene)-2(1H,3H)-indolone [Chem. Ber. 85: 774 (1952); 3.77 g, 20 mmoles] were added, and the mixture stirred for 30 minutes (until gas evolution ceased). m-Iodoanisole (9.36 g, 40 mmoles) in 20 ml DMF was added, followed by Cu2Br2 (5.74 g, 20 mmoles). The reaction mixture was heated at 120°-130° for 40 hours, poured over 300 g of ice, stirred with 300 ml ether, filtered and the ether layer separated, dried over MgSO4, filtered and concentrated to an oil. The oil was chromatographed on silica gel, using ethyl acetate as eluant and title product initially isolated as an oil, crystallized from ether, 2.46 g (42%), m.p. 106°-108.5° (dec.).

reactant | sodium hydride | 20 mmoles, 0.96 g | [H-].[Na+]
reactant | 3-(dimethylaminomethylene)-2(1H,3H)-indolone | 20 mmoles, 3.77 g | CN(C)C=C1C(NC2=CC=CC=C12)=O | C11H12N2O
reactant | m-Iodoanisole | 40 mmoles, 9.36 g | IC=1C=C(C=CC1)OC | C7H7IO
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | DMF | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(3-Methoxyphenyl)-3-(dimethylaminomethylene)-2(1H,3H)-indolone | COC=1C=C(C=CC1)N1C(C(C2=CC=CC=C12)=CN(C)C)=O | C18H18N2O2
